US05130119
(a) (2,6-Dibromo-4-fluoro-phenyl) benzyl ether
2.21 g (96 mmol) of sodium is dissolved in 66 ml of ethanol with exclusion of moisture. 21.6 g (80 mmol) of 2,6-dibromo-4-fluorophenol is added to this solution. A suspension results. 20.5 g (120 mmol) of benzyl bromide is added to the suspension. It is stirred for 30 minutes at room temperature and then is refluxed for 1 hour. A sample of the suspension then reacts neutrally to moist reaction paper. The precipitate of the sodium bromide is suctioned off, the filtrate is evaporated to dryness and the residue is crystallized from ethanol. 23.7 g (66 mmol)=82.5% of the theoretical yield is obtained as a crystallizate. Melting point 83° C.

reactant | sodium | 96 mmol, 2.21 g | [Na] | Na
reactant | 2,6-dibromo-4-fluorophenol | 80 mmol, 21.6 g | BrC1=C(C(=CC(=C1)F)Br)O | C6H3Br2FO
reactant | benzyl bromide | 120 mmol, 20.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium bromide | [Br-].[Na+]
solvent | ethanol | 66 ml | C(C)O | C2H6O
product | (2,6-Dibromo-4-fluoro-phenyl) benzyl ether | C(C1=CC=CC=C1)OC1=C(C=C(C=C1Br)F)Br | C13H9Br2FO
